US05079251
Sodium nitrite (0.21 g) was added in one batch to concentrated sulphuric acid (2.5 ml) at 2° C. The reaction mixture was then stirred, allowed to warm to room temperature and then heated to 40° C. for 10 minutes. The resulting solution was then cooled to 3° C. and a solution of 2-amino-5-trifluoromethylpyrazine (prepared by the method of Miesel, U.S. Pat. No. 4,293,552, 0.5 g) in concentrated sulphuric acid (3.5 ml) added dropwise. The reaction temperature was not allowed to rise above 5° C. during the addition. After stirring at 5° C. for 10 minutes, the reaction mixture was allowed to warm to room temperature and after 10 minutes heated to 40° C. for 10 minutes. The reaction mixture was then added to ice. Vigorous gas evolution was noted. The mixture was then extracted with ethyl acetate, the organic phase washed with brine, dried with sodium sulphate and evaporated under reduced pressure to give 5-trifluoromethylpyrazine-2-one as a yellow solid.

reactant | Sodium nitrite | 0.21 g | N(=O)[O-].[Na+]
reactant | 2-amino-5-trifluoromethylpyrazine | NC1=NC=C(N=C1)C(F)(F)F | C5H4F3N3
solvent | sulphuric acid | 3.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulphuric acid | 2.5 ml | S(O)(O)(=O)=O | H2O4S
product | 5-trifluoromethylpyrazine-2-one | FC(C=1N=CC(NC1)=O)(F)F | C5H3F3N2O
